US07332501B2
c) 1-(6-Chloro-2-methyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone
To a solution of 0.38 g (2.3 mmol) 6-chloro-2-methyl-1H-indole in 20 ml 1,2-dichloroethane at 0° C. were added 0.35 ml (2.5 mmol) trifluoroacetic anhydride. The reaction mixture was quenched with aqueous 2 M sodium carbonate solution after 30 min and extracted with dichloromethane (3×100 ml). The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give the title compound (0.57 g; 95%) as an off-white solid.

reactant | 6-chloro-2-methyl-1H-indole | 2.3 mmol, 0.38 g | ClC1=CC=C2C=C(NC2=C1)C | C9H8ClN
reactant | trifluoroacetic anhydride | 2.5 mmol, 0.35 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 1-(6-Chloro-2-methyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 0.57 g, 95% | ClC1=CC=C2C(=C(NC2=C1)C)C(C(F)(F)F)=O | C11H7ClF3NO
